data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,8842,"CC(C)C1CC(O)C2=C[C:1](=[O:2])C(C)(CC[C:3](=[CH:4]CO)[O-:5])CCC21C.C[OH+][Na]|(5, 3);((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,5556,"CC(=O)OI1OC(=O)C2=C1C=CC=C2.CC(=O)[O-:1].O=C1C2=CC=C[N+:2]2([H:3])C(O)C2CCCN12|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1637,"CC([O-])(CCC(=O)CCC1=CC=CC=C1)[NH2+:1][H:2].CO.[NH3:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5076,"CC1CCC(C2=CC=CC=C2)[C:1](C2=CC=CC=C2)=[CH:2]1.[H:3][Br:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,10048,"ClC(Cl)(Cl)[CH:1]=[OH+:2].ClC1=C[CH:3]=[CH:4]C=C1.O=S(=O)([O-])O|((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,2122,"CC1(C)CCC[C+:1]2C(C#N)=CC=C[C:2]12[H:3].O.O=P(O)(O)OP(=O)(O)[O-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,6851,"CC(C)[CH2][AlH:1][CH2]C(C)C.CCCC(N(CCC)CCC)=[O:2]|(2, 1)"
train,pmechdb_split_0,0,1414,"C[NH+:1](C)[Cl:2].C[S:3]C|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7425,"CC[C:1](C(C)C(C)=O)([O-:2])[Cl:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,1967,"C[C:1](Br)(C#N)[H:2].[OH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2309,"C[O:1][C:2](O)(C1=CC=CC=C1)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7974,"CC(=O)OC1=C2OC3C(=O)C(C4=CC=CC=C4)CC4(OC(C)=O)C5CC(=C2C34CC[N+:1]5(C#N)[CH3:2])C=C1.[Br-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,479,"C[CH:1]=[O+:2]C.[F-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5265,"COC(=O)[C-:1]([N+]#N)C1=CC=CC=C1.O=S(=O)(C1=CC=CC=C1)[N:2](S(=O)(=O)C1=CC=CC=C1)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,3854,"CCCC(C)=[O+:1][B-:2](F)(F)F|((2, 1), 1)"
train,pmechdb_split_0,0,1986,"CC(C)(O)[CH:1]([N+](=O)[O-])[H:2].[OH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3338,"C[C:1]1=[CH:2]C(C2=CC=CC=C2)CCC1C1=CC=CC=C1.[H:3][Cl:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,8223,"CC(=O)C1=CO[CH:1]=[CH:2]1.O=[N+:3]=[O:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,4669,"Br[P+:1](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.COC1=CC(C[O-:2])=CC=C1.O=C1CCC(=O)N1|(2, 1)"
train,pmechdb_split_0,0,2248,"CC(C)C([Si](C)(C)C)=[C:1]=[CH2:2].[Cl][Ti-]([Cl])([Cl])([Cl])[O+:3]=[CH:4]CCC1=CC=CC=C1|((1, 2), 4);((4, 3), 3)"
train,pmechdb_split_0,0,4649,"C1=CC=C(C2=C(N[NH2:1])N=C3N=CC=CC3=C2)C=C1.CC(=O)O.C[C:2](C1=C(O)C=CC2=C1C=CC=C2)=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4187,"CC(=O)CC[C:1](C)([NH:2]C1=CC([N+](=O)[O-])=CC=C1)[OH2+:3].CC1=CC=C(S(=O)(=O)[O-])C=C1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,4112,"CCCCCC1CC(CCCCC)C(OC(C)=[O:1])[CH:2]([O:3]S(=O)(=O)C2=CC=C(C)C=C2)C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5618,"CC1(C)OC2C(OS(C)(=O)=O)C3[CH2:1][S+:2]3C2O1.CS(=O)(=O)[O-].C[O:3][Na]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1052,"C1=CC=C([CH2:1][Cl:2])C=C1.CC(C(=O)OCC1=CC=CC=C1)[NH:3]CC1=CC=CC=C1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,124,"C[OH+:1][CH:2](CC1=CC=CC=C1)[OH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5187,"CC[N:1](CC)[CH:2](C)[NH2+:3]C|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3479,"C=CC(=O)COC(C)=O.CC1=C(CCO)SC(C(C2=CC=C(F)C=C2)[O-:1])=[N+]1CC1=CC=CC=C1.CC[N+:2](CC)(CC)[H:3].[Cl-]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7685,"C=CC(OCC)=[O+:1][H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,166,"C[Si](C)(C)C1C(O)CC[CH+:1]1.O=C(C1=CC=CC(Cl)=C1)[O-:2]|(2, 1)"
train,pmechdb_split_0,0,25,"CCOC(=O)CCC(C)(O)[O+:1](CC)[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3802,"CN(C)C=[N:1]C.C[S+](C)[CH2:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8105,"CC(C)O[B:1](OC(C)C)OC(C)C.ClC1=[C:2]([Li:3])C=CC=N1|((3, 2), 1)"
train,pmechdb_split_0,0,1488,"CC[OH:1].C[CH:2]([H:3])[C+:4](C)C|(1, 3);((3, 2), 4)"
train,pmechdb_split_0,0,4865,"C=CC(O)(O)[O:1]CC.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5835,"CC(OP(=O)(Cl)Cl)=[N+:1](CCC1=CC=CC=C1)[H:2].[Cl-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6640,"C[C:1]1=[CH:2]C(C2=CC=CC=C2)CCCC1C1=CC=CC=C1.[H:3][Cl:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,5284,"CO[C+:1]1C=C([N+](=O)[O-])C=C[C:2]1(C(C)C)[H:3].[F-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,7956,"C1=CC=[N:1]C=C1.C1=CC=[NH+]C=C1.CC(=O)[O-].COC1=C(C(C)C)C(OC)=C([C:2](C2=C(C)CCCC2(C)C)([H:3])[O:4][I+:5]2(OC(C)=O)OC(=O)C3=C2C=CC=C3)C=C1|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,10139,"C[CH:1]([Cl:2])[Br:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,5097,"O=C(C[NH+:1](CC(=O)[O-:2])[H:3])[O][Ca][OH].[Cl-]|(2, 3);((3, 1), 1)"
train,pmechdb_split_0,0,1098,"CCO.CCOC(=O)C1=C(C)[NH:1][C:2](C)([OH2+:3])C(C(=O)OCC)C1C1=C(CCC2=CC(Br)=CC=C2)ON=C1C.N.O|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5071,"CC(=O)[O-].COC(=O)[C-:1](C(=O)O)[CH:2](CC1=CC=CC=C1)[NH+:3]1CCCCC1.[OH3+]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1480,"C=[C:1](C)[Mg:2][Br].CCC#[N+:3][H:4]|((2, 1), 4);((4, 3), 3)"
train,pmechdb_split_0,0,96,"CC1=NC(=O)C([N+](=O)[O-])([N+](=O)[O-])C(O)=[N:1]1.O.O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,3960,"C1CCOC1.N#CC1=CC=C(N2CCC(=[O+:1][H:2])CC2)C=C1.O=S(=O)([O-])O.OCCO.[OH2:3]|(3, 2);((2, 1), 1)"
